US05883075
H-Leu-OBzl.
pTos (21.6 g) was dissolved in DMF (100 ml), and the solution was cooled with ice. TEA (7.7 ml) and Boc-D-Leu-ONB (prepared from Boc-D-Leu--OH. H2O (12.5 g), HONB (9.86 g) and DCC (11.4 g) were added thereto, followed by stirring overnight. The resulting DCU was separated by filtration, and the filtrate was concentrated to obtain a residue. The residue was dissolved in AcOEt, and the resulting solution was washed with 4% aqueous NaHCO3 and 10% aqueous citric acid. After washing with water, the solution was dried with Na2SO4 and concentrated. Ether was added to the resulting residue to separate out a precipitate, which was collected by filtration.

reactant | Boc-D-Leu--OH. H2O | 12.5 g | CC(C)C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C11H21NO4
reactant | HONB | 9.86 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 11.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | H-Leu-OBzl | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
